US05885986
1.0 g (0.00254 mol) of 3-(5-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 50 ml of ethyl acetate was treated with 0.76 ml (0.00279 mol) of 3.7N ethanolic hydrochloric acid. After stirring at 0° for 1/2 hr. the white suspension was suction filtered. The yellowish crystals were dissolved in hot acetonitrile and recrystallized by the addition of ether. There was obtained 0.95 g (87%) of 3-(5-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo [1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1) as light beige crystals; m.p. 228°-231° (dec.).

reactant | 3-(5-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.00254 mol, 1.0 g | C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C22H27N5O2
reactant | hydrochloric acid | 0.00279 mol, 3.7N, 0.76 ml | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(5-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo [1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.95 g, 87% | Cl.C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | InChI=1S/C22H27N5O2.ClH/c1-4-10-26(11-5-2)13-16-12-23-21(29-16)20-19-14-25(3)22(28)17-8-6-7-9-18(17)27(19)15-24-20;/h6-9,12,15H,4-5,10-11,13-14H2,1-3H3;1H
